Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with h/o history of HTN, HLD, CAD, 
paroxysmal afib, hemorrhagic stroke, renal transplant in ___ on 
tacrolimus, diverticulosis, recurrent UTIs, and chronic back 
pain (wheelchair bound at baseline) who presents for worsening 
chronic back and hip pain.  
 Patient endorses pain in ___ spine that goes up into ___ neck. 
She has been on prednisone for the past ___ years and has been in 
a wheelchair for the past ___ years. She denies new injuries or 
falls. Denies headache, blurry vision. Denies bowel/bladder 
incontinence or retention. Denies numbness in LEs. Denies fever, 
chills.  
 She also reports pain in ___ left lower abdomen and back, and 
sharp pain underneath lower ribs on that side that is new. She 
has had this pain for ___ weeks, but it has worsened in acuity. 
She went to see ___ PCP prior to presentation and got new 
medications that helped, but the pain reoccurred today.  
 Denies n/v/d. Denies dysuria. Denies chest pain, SOB, cough.  
 In the ED, initial vitals: T 97.6 BP 100/69 HR 66 RR 18 O2 100% 
RA.  
 Physical exam notable for: diffuse tenderness throughout spine 
with left lateral curvature of lower thoracic spine, no 
step-offs or deformities. Left hip incision well-healed. Diffuse 
tenderness palpation through anterior thighs and legs, though no 
posterior leg tenderness or swelling. Diffuse abdominal 
tenderness though non-focal, no rebound or guarding. Bilateral 
CVA tenderness.  
 Initial labs notable for: WBC 9.0, Hgb 13.0, Plt 101, BUN 21, 
Cr 1.5, trop negative, UA 101 WBCs, mod bacteria, lg leuks, neg 
nitr  
 Imaging notable for:  
 CT A&P: No evidence of acute intrathoracic or intraabdominal 
injury.  
 Renal US: No evidence of acute intrathoracic or intraabdominal 
injury within the limitation of an unenhanced scan.  
 Transplant surgery was consulted and believed patient had no 
acute surgical issues. Renal was consulted and recommended 
continuing home tacrolimus and prednisone, IVF for ___, and 
initiating treatment of UTI.  
 Patient was given prednisone 5mg, tacrolimus 0.5mg, 
acetaminophen 1000mg, and oxycodone 5mg. She was ordered for 
meropenem 500mg but reportedly refused taking this. She also 
refused further imaging with MRI but agreed to admission for 
management/work-up of ___ pain.  
 Upon transfer to the floor, patient endorses the above history 
and reports that she developed acute worsening of ___ chronic 
LLQ abdominal pain ___ weeks ago. She reports that this pain is 
in the location of "where the cancer is growing". The pain had 
been stable since yesterday, when it started earlier in the 
morning than previous days. She reports that she has pain in ___ 
spine that is the most severe and pain under ___ L rib cage that 
is new.  

 
Past Medical History:
-s/p cadaveric renal transplant: ___,
-ESRD ___ chronic reflux nephropathy, baseline Cr 1.3
-acute interstitial nephritis ___ presumably from ranitidine
-polyneuropathy in renal disease
-anemia of chronic disease
-CAD: NSTEMI ___, s/p cardiac cath without intervention
-paroxysmal atrial fibrillation
-hypertension
-hyperlipidemia
-diastolic dysfunction
-h/o DVT
-hypothyroidism
-osteopenia ___ chronic steroid use
-s/p craniotomy for intracranial hemorrhage
-GERD
-osteonecrosis of bilateral feet c/b osteomyelitis
-osteonecrosis of L hip requiring surgical intervention and
girdlestone procedure
-s/p cholecystecomy, s/p appendectomy
-small intestinal adenoma with endoscopic resection c/b bowel
perforation requiring ex-lap in ___
-cataract surgery
-MRSA osteomyelitis ___
-h/o C.diff
-recurrent urinary tract infection
-panic disorder associated with sexual trauma at age ___
-hearing loss of both ears
-h/o depression
-h/o duodenal polyps
-chronic pain (polyosteoarthritis, osteonecrosis of L hip,
osteoarthritis of R hip, spinal stenosis, low back pain with
sciatica)
-h/o herpes zoster

 
Social History:
___
Family History:
Father died of CAD at age ___. 
Mother died young of unknown causes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: T 98.5 BP 135/74 HR 82 RR 20 O2 97% RA  
 GENERAL: Well appearing, elderly woman, resting comfortably in 
bed in NAD  
 HEENT: NC/AT, EOMI, PERRL, anicteric sclera, MMM  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, breathing comfortably on RA without use of 
accessory mm  
 ABDOMEN: Soft, nondistended, diffusely tender but most 
significant in LLQ, no rebound/guarding  
 BACK: Diffusely tender to palpation of spine, no tenderness 
with palpation of paraspinal mm.  
 EXTREMITIES: No cyanosis, clubbing, or edema  
 NEURO: Alert, oriented, CN II-XII intact, ___ strength in b/l 
upper extremities, ___ strength in RLE, unable to assess 
strength in LLE (patient reports she can't move that leg)  
 SKIN: Warm and well perfused, no excoriations or lesions, 
hyperpigmentation of bilateral calves  

DISCHARGE PHYSICAL EXAM:
=========================
Vitals:  ___ 1133 Temp: 97.9 PO BP: 111/70 R Lying HR: 71 
RR: 18 O2 sat: 96% O2 delivery: Ra 

General: elderly lady, alert, oriented, no acute distress
HEENT: PERRL, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Resp: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: irregular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
Back: Diffusely tender to palpation of spine, no tenderness with 
palpation of paraspinal mm. Bilateral CVAT. 
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, ___ strength in b/l upper extremities, 
___ strength in RLE, unable to assess strength in LLE (patient 
reports she can't move that leg). 
 
Pertinent Results:
====================
ADMISSION LABS
====================

___ 09:25AM BLOOD WBC-9.0 RBC-4.61 Hgb-13.0 Hct-42.7 MCV-93 
MCH-28.2 MCHC-30.4* RDW-14.9 RDWSD-50.4* Plt ___
___ 09:25AM BLOOD Neuts-65.4 ___ Monos-7.5 Eos-2.3 
Baso-0.7 Im ___ AbsNeut-5.88 AbsLymp-2.06 AbsMono-0.67 
AbsEos-0.21 AbsBaso-0.06
___ 09:25AM BLOOD Plt ___
___ 09:25AM BLOOD Glucose-77 UreaN-21* Creat-1.5* Na-142 
K-4.6 Cl-100 HCO3-25 AnGap-17
___ 09:25AM BLOOD ALT-11 AST-37 AlkPhos-65 TotBili-0.4
___ 09:25AM BLOOD Lipase-15
___ 09:25AM BLOOD cTropnT-<0.01
___ 09:25AM BLOOD Albumin-3.6 Calcium-9.8 Phos-2.0* Mg-1.6

====================
PERTINENT RESULTS
====================
LABS
====================
___ 05:40AM BLOOD tacroFK-10.9

====================
MICROBIOLOGY
====================
URINE CULTURE (Final ___: 
MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN
AND/OR GENITAL CONTAMINATION. 

====================
IMAGING
====================

___ CT CHEST/ABD/PELVIS W/O
IMPRESSION:  
No evidence of acute intrathoracic or intraabdominal injury 
within the 
limitation of an unenhanced scan. 

___ RENAL TRANSPLANT U.S.
IMPRESSION:    
Largely unchanged simple cyst in the upper pole of the 
transplanted kidney. Otherwise, unremarkable renal transplant 
ultrasound. 

====================
DISCHARGE LABS
====================

___ 05:55AM BLOOD WBC-5.5 RBC-4.04 Hgb-11.4 Hct-37.3 MCV-92 
MCH-28.2 MCHC-30.6* RDW-15.0 RDWSD-51.2* Plt ___
___ 05:55AM BLOOD Plt ___
___ 05:55AM BLOOD Glucose-92 UreaN-25* Creat-1.5* Na-145 
K-3.8 Cl-103 HCO3-31 AnGap-11
___ 05:55AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.7
___ 08:40AM BLOOD tacroFK-10.7
 
Brief Hospital Course:
Ms. ___ is a ___ year old man with h/o history of HTN, HLD, 
CAD, paroxysmal afib, hemorrhagic stroke, renal transplant in 
___ on tacrolimus, diverticulosis, c. diff, UTIs, chronic back 
pain and wheelchair bound at baseline who presents for abdominal 
pain.

#Abdominal pain
The patient reports 1 week of sharp, non-radiating L-sided 
abdominal pain without any other associated symptoms. 
Atraumatic. Afebrile, HDS, well-appearing. Abdominal exam 
benign, neurological exam unchanged from baseline, no rash or 
skin changes. Non-con CT C/A/P unremarkable. UA with pyuria, but 
likely chronic colonization. Renal US of transplanted kidney 
unremarkable. Unlikely to be related to UTI; bilateral CVAT more 
likely related to MSK pain, esp. since she is s/p R nephrectomy. 
Unlikely to be new compression fracture given no step-offs. No 
s/sx of cord compression or cauda equina syndrome. The 
description of the pain was not consistent with shingles 
(non-dermatomal). The description of the pain was felt to be 
most consistent with musculoskeletal in etiology. The chronic 
pain service was consulted, and recommended lidocaine ointment, 
lidocaine 5% patch, uptitration of ___ home tizanidine dose, 
TENS unit to the L abdomen, and continuation of ___ home APAP 
and fentanyl patch. They recommended as well that she continue 
with ___ that is in-house in ___ SNF; the patient refused an 
in-house ___ evaluation. Pain was improved prior to discharge.

#Depression
#H/o panic attacks
The patient endorsed depressed mood and reports that primary 
life stressor is dissatisfaction with current living situation 
at ___. She is NOT on hospice, however has considered 
in the past. She likely would not meet criteria. She denied any 
SI/HI. Per SW, we were unable to change SNF placement during 
this admission, but could initiate process as outpatient. The 
patient's home duloxetine and clonazepam were continued.

___
Creatinine on admission 1.5 from a baseline of 1.3, uptrending 
to 1.6 on ___. The patient reports adequate PO and fluid 
intake, but feeling thirsty. Renal US w/out e/o hydronephrosis. 
She was given IVF but ___ Cr remained stable at 1.5. She denied 
taking NSAIDs. Other medication-related causes were considered 
(omeprazole, acyclovir) but felt unlikely. Tacrolimus toxicity 
was also considered; a tacrolimus level was within normal limits 
and no adjustment to the dose was made. ___ renal function was 
discussed with the renal transplant team, who felt that the Cr 
level is relatively stable from baseline and a mild elevation 
could represent fibrotic changes (seen previously on biopsy in 
___. They did not recommend any further intervention. Adequate 
oral fluid intake was encouraged. 

# CKD s/p renal transplant and R nephrectomy 
Renal US of transplanted kidney unremarkable. As above, no 
changes were made to home tacrolimus and prednisone. Home 
calcitriol was continued as well.

#Pyuria
Patient with history of MDR UTIs. Previous cultures grew 
Morganella morganii. In the setting of abdominal pain, a 
urinalysis was obtained which showed pyuria and large leukocyte 
esterase. However, she has no other infectious symptoms such as 
leukocytosis, fever, or dysuria, so no antibiotics were 
administered.

# CAD/HLD - Home aspirin and rosuvastatin were continued.

# Hypothyroidism - Last TSH 0.47 on ___. Home levothyroxine 
88 mcg QD were continued.

# Paroxysmal atrial fibrillation - Not on home anti-coagulation. 
Home metoprolol succinate 25 mg PO QD were continued.

# H/o duodenal polyps - Last seen by ___ in ___. Declined 
repeat EGD or other procedures. ___ GI MD Dr. ___ was 
consulted in the ED, and did not believe ___ pain is likely to 
be GI in etiology. Though he had considered repeat EGD in the 
future, he did does not believe this would add to current 
clinical picture. Felt not to be contributory to abdominal pain. 
Home omeprazole 40mg BID, dicyclomine 10mg PO TID, and 
sucralfate were continued.

# H/o herpes zoster - Home acyclovir 200 mg PO QD were 
continued.

# Nutrition - Home vitamins were continued.

================================
TRANSITIONAL ISSUES
================================
TRANSITIONAL ISSUES:
[ ] Please hold tacrolimus on ___ of ___, and resume normal 
regimen on ___ 
[ ] Please draw tacrolimus level on ___ 1 hour before AM 
dose
[ ] Will require work-up for thrombocytopenia
[ ] TENS unit to be placed directly over the left 12th rib on 
the anterior side
[ ] Consider outpatient psychiatry if patient is amenable 
(passive SI with plans to discontinue medications)

NEW/CHANGED MEDICATIONS:
[ ] CHANGE Tizanidine ___ mg PO TID:PRN muscle spasm  
[ ] NEW Lidocaine 5% Ointment 1 Appl TP BID  
[ ] NEW Lidocaine 5% Patch 1 PTCH TD QAM  

PENDING LABS:
[ ] NONE

Discharge Cr 1.5
Discharge tacrolimus level: 10.7

CODE: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. Ascorbic Acid ___ mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO BID 
5. ClonazePAM 0.5 mg PO BID:PRN anxiety 
6. DICYCLOMine 10 mg PO TID 
7. DULoxetine 30 mg PO DAILY 
8. Fentanyl Patch 100 mcg/h TD Q72H 
9. Levothyroxine Sodium 88 mcg PO DAILY 
10. Lidocaine 5% Ointment 1 Appl TP BID 
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Omeprazole 40 mg PO BID 
14. PredniSONE 5 mg PO DAILY 
15. Rosuvastatin Calcium 40 mg PO QD 
16. Sucralfate 1 gm PO Q8H:PRN abdominal pain 
17. Vitamin A 8000 UNIT PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Vitamin E 1000 UNIT PO DAILY 
20. Zolpidem Tartrate 5 mg PO QHS 
21. Acyclovir 400 mg PO Q12H 
22. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
23. Tizanidine 4 mg PO TID:PRN muscle spasm 
24. Tacrolimus 0.5 mg PO Q12H 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
Please apply directly to L lower ribcage.  
2.  Tacrolimus 0.5 mg PO Q12H 
Hold on ___ ___ and resume on ___.  
3.  Tizanidine ___ mg PO TID:PRN muscle spasm  
4.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
5.  Acyclovir 400 mg PO Q12H  
6.  Ascorbic Acid ___ mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  Calcitriol 0.25 mcg PO BID  
9.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
10.  DICYCLOMine 10 mg PO TID  
11.  DULoxetine 30 mg PO DAILY  
12.  Fentanyl Patch 100 mcg/h TD Q72H  
13.  Levothyroxine Sodium 88 mcg PO DAILY  
14.  Lidocaine 5% Ointment 1 Appl TP BID  
15.  Metoprolol Succinate XL 25 mg PO DAILY  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Omeprazole 40 mg PO BID  
18.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
19.  PredniSONE 5 mg PO DAILY  
20.  Rosuvastatin Calcium 40 mg PO QD  
21.  Sucralfate 1 gm PO Q8H:PRN abdominal pain  
22.  Vitamin A 8000 UNIT PO DAILY  
23.  Vitamin D 1000 UNIT PO DAILY  
24.  Vitamin E 1000 UNIT PO DAILY  
25.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Musculoskeletal abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
- You were admitted to the hospital because you were having 
severe pain.

WHAT HAPPENED IN THE HOSPITAL?
- Our Chronic Pain Service saw you and gave recommendations on 
how to better control your pain.
- We saw that lidocaine ointment and patches were helpful in 
controlling your pain.
- We made some additional adjustments to your pain medications.
- You worked with our physical therapists.
- Our Renal Transplant team saw you as well and did not have any 
concerns regarding your transplanted kidney.

WHAT SHOULD I DO WHEN I GO HOME?
- Please continue to take all medications as instructed.
- New medications and changes in your old medications are 
detailed in this packet.
- Please continue to follow up with all of your outpatient 
providers, including the primary care appointment we have made 
for you (detailed below).
- If you continue to desire a change your current living 
situation, please talk with the case managers and social workers 
at your facility.

We wish you the best!
-Your Care Team at ___

 
Followup Instructions:
___